US05491145
Production of ethyl 2,2-diethyl-4-thiocyanobutyrate
Using ethyl 4-chloro-2,2-diethylbutyrate as obtained in Reference Example 8and potassium thiocyanate, the title compound was produced in the same manner as in Reference Example 11.

reactant | ethyl 4-chloro-2,2-diethylbutyrate | ClCCC(C(=O)OCC)(CC)CC | C10H19ClO2
reactant | potassium thiocyanate | [S-]C#N.[K+]
product | ethyl 2,2-diethyl-4-thiocyanobutyrate | C(C)C(C(=O)OCC)(CCSC#N)CC | C11H19NO2S
